US07056925B2
3-amino-4-[bis(2-methoxyethyl)amino]benzonitrile
A mixture of 4-cyano-1-fluoro-2-nitrobenzene (35.1 mg, 0.2 mmol) and N,N-bis(2-methoxyethyl)amine (0.266 g, 2.4 mmol) in acetonitrile (10 mL) in a capped 20-mL vial was shaken at 80° C. overnight and concentrated. The concentrate was dissolved in methanol (10 mL), treated with Raney nickel (50% water suspension, 0.40 g, 6.8 mmol), filled with excess hydrogen, shaken at 50° C. for 1 hour, and filtered. The filtrate was concentrated and the concentrate was purified by HPLC with acetonitrile/water containing 0.1% TFA to give the desired compound. MS (APCI(+)) m/z 250 (M+H)+.

reactant | 4-cyano-1-fluoro-2-nitrobenzene | 0.2 mmol, 35.1 mg | C(#N)C1=CC(=C(C=C1)F)[N+](=O)[O-] | C7H3FN2O2
reactant | N,N-bis(2-methoxyethyl)amine | 2.4 mmol, 0.266 g | COCCNCCOC | C6H15NO2
reactant | hydrogen | [H][H] | H2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | Raney nickel | 6.8 mmol, 0.40 g | [Ni] | Ni
product | 3-amino-4-[bis(2-methoxyethyl)amino]benzonitrile | NC=1C=C(C#N)C=CC1N(CCOC)CCOC | C13H19N3O2
